US04673746
3.35 g NaN3 and 2.25 g of AlCl3 are stirred in 50 ml THF at reflux for 0.5 hour. A solution of 5 g {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}acetonitrile, of Example 50, in 50 ml THF is added and the reaction mixture is stirred at reflux for about 120 hours. To the reaction mixture is added water and the solvent is removed. The residue is treated with dilute HCl and extracted with CHCl3. Upon attempted extraction of the chloroform solution with 15% NaOH a precipitate forms which is filtered, dissolved in hot water and acidified to afford 7-chloro-3-(2-fluorophenyl)-6- {[5-tetrazolylmethyl]oxy}-1,2-benzisoxazole, mp 198°-200° C.

reactant | NaN3 | 3.35 g | [N-]=[N+]=[N-].[Na+]
reactant | AlCl3 | 2.25 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}acetonitrile | 5 g | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCC#N | C15H8ClFN2O2
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 7-chloro-3-(2-fluorophenyl)-6- {[5-tetrazolylmethyl]oxy}-1,2-benzisoxazole | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCC2=NN=NN2 | C15H9ClFN5O2
